US04110447
A mixture of 24.2 g of 3-(4'-fluoro-4-biphenylyl)butanal [obtainable by oxidation of 3-(4'-fluoro-4-biphenylyl)-butanol with CrO3 ], 40 g of liquid ammonia and 400 ml of methanol is heated at 100° for 12 hours. In the course thereof, 1-hydroxy-3-(4'-fluoro-4-biphenylyl)butylamine and 3-(4'-fluoro-4-biphenylyl)-butylidene-imine, which are not isolated, are probably formed as intermediate products. 30 g of Raney nickel are then added and the mixture is hydrogenated for about 20 hours at 100 m and 100°, and is filtered and evaporated to give 3-(4'-fluoro-4-biphenylyl)-butylamine. Hydrochloride, m.p. 222°-224°.

reactant | 3-(4'-fluoro-4-biphenylyl)butanal | 24.2 g | FC1=CC=C(C=C1)C1=CC=C(C=C1)C(CC=O)C | C16H15FO
reactant | ammonia | N | H3N
solvent | methanol | 400 ml | CO | CH4O
product | 1-hydroxy-3-(4'-fluoro-4-biphenylyl)butylamine | OC(CC(C)C1=CC=C(C=C1)C1=CC=C(C=C1)F)N | C16H18FNO
